US04988698
1-Chloro-6,7-dimethoxyisoquinoline (0.63 g) and 6-(1-piperazinyl)-3,4-dihydro-2(1H)-quinolinone (1.30 g) were mixed at 200° C. for 1.5 hours under stirring. The mixture was dissolved in a mixture of chloroform and methanol (10:1 V/V) and subjected to a column chromatography on silica gel (eluent:methanol in chloroform, 0-2% V/V). The fractions containing the object compound were combined and concentrated and the residue was triturated with diisopropyl ether to give 6-[4-(6,7-dimethoxyisoquinolin-1-yl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone (0.44 g).

reactant | 1-Chloro-6,7-dimethoxyisoquinoline | 0.63 g | ClC1=NC=CC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 6-(1-piperazinyl)-3,4-dihydro-2(1H)-quinolinone | 1.30 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 6-[4-(2-tert-Butoxycarbonylamino-4-methylthiazole-5-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C)C(=O)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C23H29N5O4S
product | 6-[4-(6,7-dimethoxyisoquinolin-1-yl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone | 0.44 g | COC=1C=C2C=CN=C(C2=CC1OC)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C24H26N4O3
